* Z:\mnt\design.r\spice\examples\2997.asc
XU1 N001 N002 OUT IN 0 NC_01 LTC2997
R2 OUT 0 10K
V1 IN 0 3.3
C1 N001 N002 470p
Q1 N001 N001 N002 0 2N3904
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 13m startup
.temp -50 -25 0 25 50 85
.lib LTC2997.sub
.backanno
.end
